US07919488B2
N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N-methylcyclopropanecarboxamide
To a solution of 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine (150 mg, 0.37 mmol) in DCM (3 mL) at room temperature was added triethylamine (56 μL, 0.40 mmol) followed by cyclopropanecarbonyl chloride (34 μL, 0.37 mmol) and the solution stirred for 10 minutes. The solution was then loaded directly onto a pre-wetted Biotage 25M column for flash chromatography and eluted with 2-8% MeOH/DCM to yield the title compound as a white solid, 162 mg, 92%. 1H NMR (rotomers seen, 400 MHz, DMSO-D6) δ ppm 8.43-8.59 (2 H, m), 7.59-7.72 (2 H, m), 7.31 (2 H, dd, J=8.46, 5.68 Hz), 7.15 (2 H, t, J=8.84 Hz), 6.52 (1 H, s), 5.10-5.36 (2 H, m), 4.22-4.60 (2 H, m), 3.95 (3 H, s), 3.03-3.26 (1 H, m), 2.53-3.01 (4 H, m), 1.42-2.10 (5 H, m), 0.62-0.79 (4 H, m); m/z (APCI+) for C27H30N5O2F 476.2 (M+H)+.

reactant | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine | 0.37 mmol, 150 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)NC)C2=CC=NC=C2)C=C1 | C23H26FN5O
reactant | triethylamine | 0.40 mmol, 56 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.37 mmol, 34 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N-methylcyclopropanecarboxamide | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N(C(=O)C2CC2)C)C2=CC=NC=C2)C=C1 | C27H30FN5O2
